US05204476
Preparation of 2-(4-octyloxy-2-fluorophenyl)-5-nonylpyridine
With atmospheric oxygen and moisture being excluded, 7.9 mmol of 2-(4-octyloxy-2-fluorophenyl)-5-methylpyridine dissolved in THF and, about 15 minutes later, 8.7 mmol of 1-bromooctane are added at -70° C. to a solution of 8.7 mmol LDA (prepared from BuLi and diisopropylamine) in THF in the presence of 1.04 ml of DMPU. The reaction mixture is allowed to heat up to room temperature, stirring is continued for a further hour and working up is carried out as usual.

reactant | oxygen | O=O | O2
reactant | 2-(4-octyloxy-2-fluorophenyl)-5-methylpyridine | 7.9 mmol | C(CCCCCCC)OC1=CC(=C(C=C1)C1=NC=C(C=C1)C)F | C20H26FNO
reactant | 1-bromooctane | 8.7 mmol | BrCCCCCCCC | C8H17Br
reactant | LDA | 8.7 mmol | [Li+].CC(C)[N-]C(C)C
solvent | THF | C1CCOC1 | C4H8O
solvent | DMPU | 1.04 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 2-(4-octyloxy-2-fluorophenyl)-5-nonylpyridine | C(CCCCCCC)OC1=CC(=C(C=C1)C1=NC=C(C=C1)CCCCCCCCC)F | C28H42FNO
